US08283354B2
To a suspension of 2-(4-chloroquinazolin-2-yl)phenol (2.0 g, 7.79 mmol) in CH2Cl2 (25 mL) at 0° C. under an N2 atmosphere, was added dropwise tert-butyl piperidin-4-ylcarbamate (2.08 g, 10.13 mmol) and triethylamine (2.20 mL, 15.8 mmol) in CH2Cl2 (10 mL). The reaction was stirred overnight, quenched with water and extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated to afford tert-butyl 1-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperidin-4-ylcarbamate (3.27 g, 100%—solvent residue). LC/MS: m/z 421.3 (M+H)+ at 2.70 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA))

reactant | 2-(4-chloroquinazolin-2-yl)phenol | 7.79 mmol, 2.0 g | ClC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C14H9ClN2O
reactant | tert-butyl piperidin-4-ylcarbamate | 10.13 mmol, 2.08 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 15.8 mmol, 2.20 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperidin-4-ylcarbamate | 3.27 g, 100% | OC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=N1)N1CCC(CC1)NC(OC(C)(C)C)=O | C24H28N4O3
